US05837721
2-Methyl-4-trifluoromethyl-5-chlorocarbonyl thiazole 6.47 g and 2,6-dibromo-4-trifluoromethoxy aniline 8.91 g were added in acetonitrile 16.8 ml, and they were heated to reflex for 6.5 hours. Solvent was removed from the reaction mixture by distillation under a reduced pressure, and then ethyl acetate 420 g and water 300 ml were added and they were agitated. After standing calmly, the ethyl acetate layer was collected, and washed with 300 ml each of water, saturated sodium bicarbonate solution, and water in succession. Then, after drying over anhydrous sodium sulfate, solvent was removed by distillation under a reduced pressure, to obtain thifluzamide 13.9 g.

reactant | 2-Methyl-4-trifluoromethyl-5-chlorocarbonyl thiazole | 6.47 g | CC=1SC(=C(N1)C(F)(F)F)C(=O)Cl | C6H3ClF3NOS
reactant | 2,6-dibromo-4-trifluoromethoxy aniline | 8.91 g | BrC1=C(N)C(=CC(=C1)OC(F)(F)F)Br | C7H4Br2F3NO
solvent | acetonitrile | 16.8 ml | C(C)#N | C2H3N
product | thifluzamide | 13.9 g | CC1=NC(=C(S1)C(=O)NC2=C(C=C(C=C2Br)OC(F)(F)F)Br)C(F)(F)F | C13H6Br2F6N2O2S
